US04189485
6-Chloro-9-(2,6-dichlorobenzyl)purine (314 mg), 365 mg of diethylamine and 25 ml of methanol were treated in the same manner as Example 2, whereby 212 mg (yield 61%) of 9-(2,6-dichlorobenzyl)-6-diethylaminopurine was obtained as needles melting at 140°-141° C.

reactant | 6-Chloro-9-(2,6-dichlorobenzyl)purine | 314 mg | ClC1=C2N=CN(C2=NC=N1)CC1=C(C=CC=C1Cl)Cl | C12H7Cl3N4
reactant | diethylamine | 365 mg | C(C)NCC | C4H11N
solvent | methanol | 25 ml | CO | CH4O
product | 9-(2,6-dichlorobenzyl)-6-diethylaminopurine | 212 mg, yield 61% | ClC1=C(CN2C3=NC=NC(=C3N=C2)N(CC)CC)C(=CC=C1)Cl | C16H17Cl2N5
